US07511050B2
Step A: (4E)-4-[(2E)-(6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene)hydrazono]butanoic acid
The mixture of (2E)-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone (1.0 g, 4.2 mmol) and 4-oxobutanoic acid (3.4 g, 15% in water, 5.1 mmol) in EtOH (70 ml) was refluxed for 1.5 hours. Evaporation of solvent gave the desired product (1.3 g, 96%) as a yellowish solid. LCMS calculated for C14H21N6O3(M+H): 321.1; found: 321.1.

reactant | (2E)-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone | 4.2 mmol, 1.0 g | C(CCCC)N1/C(/NC(C=2NC=NC12)=O)=N/N | C10H16N6O
reactant | 4-oxobutanoic acid | 5.1 mmol, 3.4 g | O=CCCC(=O)O | C4H6O3
solvent | EtOH | 70 ml | CCO | C2H6O
product | (4E)-4-[(2E)-(6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene)hydrazono]butanoic acid | 1.3 g, 96% | O=C1C=2NC=NC2N(\C(\N1)=N\N=C\CCC(=O)O)CCCCC | C14H20N6O3
